US08470849B2
(2-Fluoro-phenyl)-[3-(1H-pyrrolo[2,3-b]pyridine-3-yl)-pyrrolidine-1-yl]-methanone
Previous amine (0.2 g 1.08 mmol) was dissolved in DMF (3 ml) and cooled to 0° C. Then HOBT (0.0432 g 0.318 mmol), EDCI (0.303 g 1.59 mmol) were added followed by triethylamine (0.44 ml) and 2-fluorobenzoic acid (0.178 g 1.27 mmol). The mixture was stirred at RT overnight, quenched with quenched with 20 ml of 10% sodium bicarbonate solution and extracted with ethyl acetate. Ethyl acetate was concentrated and pure product obtained by column chromatography as off white solid (0.050 g).

reactant | HOBT | 0.318 mmol, 0.0432 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 1.59 mmol, 0.303 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | triethylamine | 0.44 ml | C(C)N(CC)CC | C6H15N
reactant | 2-fluorobenzoic acid | 1.27 mmol, 0.178 g | FC1=C(C(=O)O)C=CC=C1 | C7H5FO2
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | (2-Fluoro-phenyl)-[3-(1H-pyrrolo[2,3-b]pyridine-3-yl)-pyrrolidine-1-yl]-methanone | 0.050 g | FC1=C(C=CC=C1)C(=O)N1CC(CC1)C1=CNC2=NC=CC=C21 | C18H16FN3O
